### PR TITLE
[Merged by Bors] - feat(RingTheory): `dim R + 1 ≤ dim R[X]`

### PR DESCRIPTION
**Pull request by erdOne**
We add the following results
- `ringKrullDim_quotient_succ_le_of_nonZeroDivisor`: If `r` is not a zero divisor, then
  `dim R/r + 1 ≤ dim R`.
- `ringKrullDim_succ_le_ringKrullDim_polynomial`: `dim R + 1 ≤ dim R[X]`.
- `ringKrullDim_add_enatCard_le_ringKrullDim_mvPolynomial`: `dim R + #σ ≤ dim R[σ]`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Rename.lean [hunk 1]
```diff
@@ -102,6 +102,12 @@ theorem rename_injective (f : σ → τ) (hf : Function.Injective f) :
   rw [this]
   exact Finsupp.mapDomain_injective (Finsupp.mapDomain_injective hf)
 
+theorem rename_surjective (f : σ → τ) (hf : Function.Surjective f) :
+    Function.Surjective (rename f : MvPolynomial σ R → MvPolynomial τ R) := by
+  have (x) : rename (R := R) f (rename (Function.surjInv hf) x) = x := by
+    simp [rename_rename, Function.comp_def, Function.surjInv_eq, ← Function.id_def, rename_id]
+  exact Function.LeftInverse.surjective this
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Rename.lean:109]: Perhaps a little slicker as
```suggestion
theorem rename_leftInverse {f : σ → τ} {g : τ → σ} (hf : Function.LeftInverse f g) :
    Function.LeftInverse (rename f : MvPolynomial σ R → MvPolynomial τ R) (rename g) := by
  intro x
  simp [hf.comp_eq_id]

theorem rename_rightInverse {f : σ → τ} {g : τ → σ} (hf : Function.RightInverse f g) :
    Function.RightInverse (rename f : MvPolynomial σ R → MvPolynomial τ R) (rename g) :=
 rename_leftInverse hf

theorem rename_surjective (f : σ → τ) (hf : Function.Surjective f) :
    Function.Surjective (rename f : MvPolynomial σ R → MvPolynomial τ R) :=
  let ⟨_, hf⟩ := hf.hasRightInverse; rename_rightInverse hf |>.surjective
```

File: Mathlib/Algebra/Order/Monoid/WithTop.lean [hunk 2]
```diff
@@ -46,4 +46,24 @@ instance linearOrderedAddCommMonoid [LinearOrderedAddCommMonoid α] :
     LinearOrderedAddCommMonoid (WithBot α) :=
   { WithBot.linearOrder, WithBot.orderedAddCommMonoid with }
 
+theorem le_self_add [Add α] [LE α] [CanonicallyOrderedAdd α]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Monoid/WithTop.lean:49]: Probably worth `protecting` this and the one below.

**Comment by eric-wieser** [comment]
Which theorem is the titular result? Can you name it in the description?

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 3]
```diff
@@ -678,10 +679,16 @@ theorem nmem_nonZeroDivisors_iff {P : R[X]} : P ∉ R[X]⁰ ↔ ∃ a : R, a ≠
   contrapose! ha
   exact h a ha
 
-open nonZeroDivisors in
 protected lemma mem_nonZeroDivisors_iff {P : R[X]} : P ∈ R[X]⁰ ↔ ∀ a : R, a • P = 0 → a = 0 := by
   simpa [not_imp_not] using (nmem_nonZeroDivisors_iff (P := P)).not
 
+lemma mem_nonzeroDivisors_of_coeff_mem {p : R[X]} (n : ℕ) (hp : p.coeff n ∈ R⁰) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:685]: Can you add the reverse direction? `P` is not a zero divisors iff there exist a coeff that is not a zero divisors.

File: Mathlib/Order/WithBot.lean [hunk 4]
```diff
@@ -920,6 +920,18 @@ instance noMinOrder [LT α] [NoMinOrder α] [Nonempty α] : NoMinOrder (WithTop
 
 end WithTop
 
+section WithBotWithTop
+
+lemma WithBot.forall_ge_iff_eq_top [Preorder α] [Nonempty α] [NoMaxOrder α]
```
Comment (riccardobrasca) [inline Mathlib/Order/WithBot.lean:925]: Maybe `simp`?

File: Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean [hunk 5]
```diff
@@ -0,0 +1,109 @@
...
+  let e' : PrimeSpectrum (R ⧸ I) ≃o (PrimeSpectrum.zeroLocus (R := R) I) :=
+    { __ := e, map_rel_iff' := fun {a b} ↦ by
+        show a.asIdeal.comap _ ≤ b.asIdeal.comap _ ↔ a ≤ b
+        rw [← Ideal.map_le_iff_le_comap,
+          Ideal.map_comap_of_surjective _ Ideal.Quotient.mk_surjective]
+        rfl }
+  rw [ringKrullDim, Order.krullDim_eq_of_orderIso e']
+
+lemma ringKrullDim_quotient_succ_le_of_nonZeroDivisor
+    (r : R) (hr : r ∈ nonZeroDivisors R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean:38]:
```suggestion
    {r : R} (hr : r ∈ nonZeroDivisors R) :
```

**Review by riccardobrasca — COMMENTED** [review]
Can you add the same result for power series (at least in one variable)? If it is not too much work to this PR. Thanks!

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean:685]: This is not true. In (Z/6)[X], 2x + 3 is not a zero divisor (because of the `mem_nonZeroDivisors_iff` lemma above), but every coefficient of it is a zero divisor.

Comment (riccardobrasca) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean:685]: Yeah, sure. Sorry for the noise.

File: Mathlib/Order/WithBot.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/Order/WithBot.lean:925]: It cannot be because the discr_tree simp key is bad.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
